US08003806B2
3-{5-[(2,6-Dimethoxybenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid
Using the procedure of Preparation 21, the title compound (31 mg) was prepared from ethyl 3-(5-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate and 2,6-dimethoxybenzoic acid. [LCMS (Method C, Mobile Phase I) RT=2.25 min, MH+ 446].

reactant | ethyl 3-(5-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate | NC1=CC2=C(N(C=N2)C(CC(=O)OCC)C2=CC=CC=C2)C=C1 | C18H19N3O2
reactant | 2,6-dimethoxybenzoic acid | COC1=C(C(=O)O)C(=CC=C1)OC | C9H10O4
product | 3-{5-[(2,6-Dimethoxybenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid | 31 mg | COC1=C(C(=O)NC2=CC3=C(N(C=N3)C(CC(=O)O)C3=CC=CC=C3)C=C2)C(=CC=C1)OC | C25H23N3O5
